US07071177B2
To 8.28 g (47.52 mmol) of 4-fluorophenyl methyl sulfone dissloved in 20 mL DMF was added 5.20 g (57.03 mmol) of 2-(methylthio)ethyl amine (1.2 eq.), followed by 13.13 g (95.04 mmol, 2 eq.) potassium carbonate. The mixture was heated to 65° C. and stirred for 12 h. Upon cooling to room temperature, the mixture was partitioned between EtOAc and brine, dried over MgSO4 and concentrated. Column chromatography, eluting with ethyl acetate/hexane, provided 5.53 g of 4-[2-(methylthio)ethylamino]phenyl methyl sulfone, pure by 1H NMR.

reactant | 4-fluorophenyl methyl sulfone | 47.52 mmol, 8.28 g | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | 2-(methylthio)ethyl amine | 57.03 mmol, 5.20 g, 1.2 eq. | CSCCN | C3H9NS
reactant | potassium carbonate | 95.04 mmol, 13.13 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-[2-(methylthio)ethylamino]phenyl methyl sulfone | 5.53 g | CS(=O)(=O)C1=CC=C(C=C1)NCCSC | C10H15NO2S2
